US08754079B2
VIII.2. cis-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester
0.807 g potassium carbonate were added to a solution of 1.3 g cis-benzoic acid 4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl ester in 10 ml methanol. The reaction mixture was stirred at rt overnight. 2 ml sodium hydroxide solution (2M) were added and the mixture was stirred for 4 hours. After that time the mixture was diluted with EtOAc and washed with water and brine. The organic phase was passed through a hydrophobic frit and the solvent was evaporated. Purification was achieved by silica gel column chromatography (gradient: 100% i-hex.→100% methylene chloride→20:1 methylene chloride/methanol).

reactant | potassium carbonate | 0.807 g | C([O-])([O-])=O.[K+].[K+]
reactant | cis-benzoic acid 4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl ester | 1.3 g | C(C)(C)(C)OC(=O)N([C@H]1CC[C@H](CC1)OC(C1=CC=CC=C1)=O)C | C19H27NO4
reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | cis-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@@H](CC1)O)=O | C12H23NO3
